US07449481B2
A mixture of biphenyl-2-yl-methanethiol (4 g, 20 mmol) in methanol (27 mL) and sodium methoxide in methanol (0.5 M, 40 mL) was heated at 60° C. for 0.5 h, cooled, treated with methyl iodide (3.7 mL, 60 mmol) and re-heated at 60° C. for 0.5 h. After cooling to room temperature, the reaction mixture was quenched with ice-water, acidified (pH˜2) and extracted with ethyl acetate (3×50 mL). Combined organic layer was washed with water (1×50 mL) and brine (1×50 mL), dried (MgSO4), and concentrated to give a crude product that was passed through a bed of silica (solvent: ethyl acetate) to give 3.3 g of 2-methylsulfanylmethyl-biphenyl (yellow oil) that was directly used in the next step.

reactant | biphenyl-2-yl-methanethiol | 20 mmol, 4 g | C1(=C(C=CC=C1)CS)C1=CC=CC=C1 | C13H12S
reactant | methyl iodide | 60 mmol, 3.7 mL | CI | CH3I
solvent | methanol | 27 mL | CO | CH4O
solvent | sodium methoxide | C[O-].[Na+]
solvent | methanol | 0.5 M, 40 mL | CO | CH4O
product | 2-methylsulfanylmethyl-biphenyl | 3.3 g | CSCC1=C(C=CC=C1)C1=CC=CC=C1 | C14H14S
